.subckt DLYRAMP_S_100U RST RAMP VDD GND
* Simple PMOS current mirror -> RAMP.  Iref: ideal reference (instrument).
Iref nin GND 100u
Xin  nin  nin VDD VDD PMOS5V0 W=795.6526u L=2u M=1
Xout RAMP nin VDD VDD PMOS5V0 W=795.6526u L=2u M=1
* --- ramp capacitor: PDK MIM, ~1 pF ---
Xcap RAMP GND CMIM_STD L=31.623u W=31.623u
* --- reset switch across the cap; gate = buffered RST (active-high) ---
Xrst RAMP nrstb GND GND NMOS5V0 W=100u L=0.5u M=1
Xbuf RST nrstb VDD GND BUF_5V0
.ends DLYRAMP_S_100U
